US03957922
Aniline-Pentachlorophenol - Triphenylphosphite - Propylene Oxide
A 5-liter flask, standardly equipped, was charged with 1330 grams of pentachlorophenol containing about 750 ppm of aluminum and iron compounds, 500 grams of triphenylphosphite and 232.5 grams of aniline. After heating to approximately 125°C., 750 ml. of propylene oxide was added at a temperature up to 150°C. The mixture was then cooled and 35 grams of triethylamine added, followed by oxypropylation at approximately 90°C. until steady refluxing. The product was then stripped for 2 hours at 80° - 82°C./1-2 mm. Hg. The 2931 grams of oxypropylated product had the following properties.

reactant | pentachlorophenol | 1330 grams | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | aluminum | [Al] | Al
reactant | triphenylphosphite | 500 grams | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | aniline | 232.5 grams | NC1=CC=CC=C1 | C6H7N
reactant | propylene oxide | C1C(C)O1 | C3H6O
catalyst | iron | [Fe] | Fe
solvent | triethylamine | 35 grams | C(C)N(CC)CC | C6H15N
product | Aniline Pentachlorophenol - Triphenylphosphite Propylene Oxide | NC1=CC=CC=C1.ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl.C1(=CC=CC=C1)OP(OC1=CC=CC=C1)OC1=CC=CC=C1.C1C(C)O1 | InChI=1S/C18H15O3P.C6HCl5O.C6H7N.C3H6O/c1-4-10-16(11-5-1)19-22(20-17-12-6-2-7-13-17)21-18-14-8-3-9-15-18;7-1-2(8)4(10)6(12)5(11)3(1)9;7-6-4-2-1-3-5-6;1-3-2-4-3/h1-15H;12H;1-5H,7H2;3H,2H2,1H3
